US07629363B2
Step 1. Preparation of 4-amino-1-(3-fluorobenzyl)pyridin-2(1H)-one
In a Fischer-Porter bottle, added a solution of 4-(benzylamino)-1-(3-fluorobenzyl)pyridin-2(1H)-one (2.5 g, 8.11 mmol) in glacial acetic acid (20 mL). After the solution was flushed with nitrogen, catalyst was added (10% Pd/C, 2.0 g). The vessel was sealed, evacuated, and purged with hydrogen gas. The system was charged with hydrogen gas (50 psi) and the mixture stirred at room temperature for 4 hours. The system was evacuated and flushed with nitrogen. The reaction mixture was filtered through a bed of celite and washed with fresh ethanol. The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography (hexane/ethyl acetate 3:4 v/v). The filtrate was concentrated. 1H-NMR (CD3OD, 400 MHz) δ 7.32 (q, 1H), 7.02 (m, 3H), 5.93 (dd, 1H, J=2.4 Hz, 2.8 Hz), 5.58 (d, 1H, J=2.4 Hz); ES-HRMS m/z 219.0966 (M+H calculated for C12H12N2OF requires 219.0928).

reactant | 4-(benzylamino)-1-(3-fluorobenzyl)pyridin-2(1H)-one | 8.11 mmol, 2.5 g | C(C1=CC=CC=C1)NC1=CC(N(C=C1)CC1=CC(=CC=C1)F)=O | C19H17FN2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-amino-1-(3-fluorobenzyl)pyridin-2(1H)-one | NC1=CC(N(C=C1)CC1=CC(=CC=C1)F)=O | C12H11FN2O
